US03956313
N-hydroxymethyl pyrrolidinone is a compound known in the art as an intermediate in the preparation of dyestuffs. As taught in U.S. Pat. No. 3,073,843, this material is prepared by the reaction of pyrrolidinone and formaldehyde or a precursor of formaldehyde. This patent does not suggest the formation of derivatives of this compound however. In addition, Chemical Abstracts, Volume 55, page 27267H (1961) discloses the reaction of N-chloromethyl-2-pyrrolidinone with a mixture of sodium methylate and methanol to yield 64% of N-methoxymethyl-2-pyrrolidinone. Also, Chemical Abstracts, Volume 54, page 1286f (1960) teaches that N-chloromethyl-2-pyrrolidinone can be prepared in 87% yield by treatment of the methylol derivative with SOCl2 in benzene solvent at 8°C.

reactant | N-hydroxymethyl pyrrolidinone | OCN1C(CCC1)=O | C5H9NO2
reactant | pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | formaldehyde | C=O | CH2O
reactant | N-chloromethyl-2-pyrrolidinone | ClCN1C(CCC1)=O | C5H8ClNO
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | N-methoxymethyl-2-pyrrolidinone | 64% | COCN1C(CCC1)=O | C6H11NO2
